US05536737
b) (S)-2-(Acetoxyacetyl)-1-(tert-butoxycarbonyl)pyrrolidine
(S)-1-(tert-Butoxycarbonyl)-2-(diazoacetyl)pyrrolidine (16.2 g) was dissolved in acetic acid and the mixture was heated at 100° C. for 10 minutes. The reaction mixture was allowed to cool and concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed with an aqueous solution of sodium bicarbonate and water in order, dried over anhydrous sodium sulfate, and concentrated to give the title compound (8.9 g).

reactant | (S)-1-(tert-Butoxycarbonyl)-2-(diazoacetyl)pyrrolidine | 16.2 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(C=[N+]=[N-])=O | C11H17N3O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | (S)-2-(Acetoxyacetyl)-1-(tert-butoxycarbonyl)pyrrolidine | 8.9 g | C(C)(=O)OCC(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C13H21NO5
